US04289914
PREPARATION OF 2,6-DIMETHYL-2,6-bis(t-BUTYLPEROXY)-4-HEPTANONE (ION EXCHANGE RESIN METHOD)
A mixture of 47.0 g. (0.34 mole) of phorone and 157 g (1.36 mole) of 78% t-butyl hydroperoxide was stirred with 34 g. of dry Amberlyst 15® sulfonic acid type ion exchange resin in a 500 ml flask equipped with a condenser and thermometer for forty-eight hours at 40° C. and one hour at 50° C. The ion exchange resin was separated by filtration and the product diluted with pentane. The pentane solution was washed with water, sodium bisulfite solution, 5% sodium hydroxide solution and water. After drying over anhydrous magnesium sulfate, the pentane was removed under reduced pressure. The recovered product weighed 74.2 g. (68.5% of the calculated amount). A GLC scan showed a large major peak for the expected product. In the infrared spectrum, small bands for hydroxyl and olefin were observed but the band in the 880 cm-1 region usually associated with t-butyl peroxy groups was strong. By active oxygen assay, the purity of the products was estimated at 83%.

reactant | phorone | 0.34 mole | CC(C)=CC(C=C(C)C)=O | C9H14O
reactant | t-butyl hydroperoxide | 1.36 mole, 157 g | C(C)(C)(C)OO | C4H10O2
product | 2,6-DIMETHYL-2,6-bis(t-BUTYLPEROXY)-4-HEPTANONE | CC(C)(CC(CC(C)(OOC(C)(C)C)C)=O)OOC(C)(C)C | C17H34O5
